US08859782B2
2,2-Dimethyl-5-oxo-2,5-dihydro-1H-pyrrol-3-yl acetate
At 0 to 5° C., a solution of 4.08 g of acetyl chloride in 20 of methylene chloride is added dropwise to a solution of 6.36 g of 5,5-dimethylpyrrolidine-2,4-dione and 5.57 g of triethylamine in 50 ml of methylene chloride. The mixture is then left to reach room temperature over the course of approximately one hour and then stirred for a further 24 hours. The reaction mixture is then diluted with 50 ml of methylene chloride, and extracted by shaking twice with in each case 50 ml of water, twice with in each case 25 ml of 5% strength sodium hydroxide solution and once with 50 ml of saturated aqueous NaCl solution. Drying and concentration by evaporation gives 1.58 g of the title compound in a purity according to HPLC of 97%.

reactant | acetyl chloride | 4.08 g | C(C)(=O)Cl | C2H3ClO
reactant | 5,5-dimethylpyrrolidine-2,4-dione | 6.36 g | CC1(C(CC(N1)=O)=O)C | C6H9NO2
reactant | triethylamine | 5.57 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethyl-5-oxo-2,5-dihydro-1H-pyrrol-3-yl acetate | 1.58 g | C(C)(=O)OC=1C(NC(C1)=O)(C)C | C8H11NO3
